US04039316
A mixture of 177.6 g of m-nitrovaleranilide, 160 ml of water, 8 ml of 22° Be hydrochloric acid and 640 ml of 95% ethanol was refluxed and 480 g of iron powder were added with stirring over 30 minutes. Reflux was continued for 30 minutes with stirring and the mixture was filtered. The filtrate was concentrated to dryness under reduced pressure and the residue was chromatographed over silica gel. Elution with an 8- 2 methylene chloride-acetone mixture gave 151 g of m-aminovaleranilide with a specific rotation nD20 = 1.541.

reactant | m-nitrovaleranilide | 177.6 g | [N+](=O)([O-])C=1C=C(NC(CCCC)=O)C=CC1 | C11H14N2O3
reactant | water | 160 ml | O | H2O
catalyst | iron | 480 g | [Fe] | Fe
solvent | ethanol | 640 ml | C(C)O | C2H6O
product | m-aminovaleranilide | 151 g | NC=1C=C(NC(CCCC)=O)C=CC1 | C11H16N2O
